### PR TITLE
Word: represent Kami words as stdlib bits (Zmod), keeping the nat index

### PR DESCRIPTION
**Pull request by JasonGross**
Kami's word type is now stdlib `bits`: `word n := bits (Z.of_nat n)` (that is, `Zmod (2^(Z.of_nat n))` from rocq-stdlib >= 9.1), with the `nat` index kept so `Bit n` and the rest of Kami's syntax are unchanged. `Kami/Lib/Word.v` goes from 7326 to 1864 lines (only what Kami, bedrock2's processor and end2end use survives, re-proved over the new representation; `split1`, `wmsb`, the shifts and the remainders are the stdlib operations, `combine`/`split2`/`extz` stay `of_Z`-based because `bits.app`/`skipn` give non-convertible widths); every name that Kami, or bedrock2's processor/end2end, uses from it keeps its name and statement, with these exceptions taken from the #52 comparison: `Lt`/`Slt` evaluate to `Z.ltb` on `uwordToZ`/`wordToZ` and every `Mul` to `Zmod.mul` (provably, not convertibly, equal to the old `wlt_dec`/`wmultZ` forms); `sext`/`zext`/`extz` are `of_Z` of their value (the `combine` spellings are lemmas); and the lemmas that were stdlib lemmas modulo the notations are gone in favour of the `Zmod.*`/`bits.*` names. No theorem statement of Kami's examples changes meaning. The operations the stdlib has are used by their stdlib names at every site (`Zmod.add`, `Zmod.eqb`, `bits.of_Z`, ...; Kami's infix `^+`/`^-`/... syntax is bound directly to them), so stdlib lemmas apply directly and the Word.v lemmas that restated them are deleted; the operations whose shape differs (`natToWord`, `wordToNat`, shifts, `combine`/`split`, `sext`/`zext`/`extz`, ...) are `simpl never` definitions over them. Since `simpl`/`cbn` normalize the modulus argument `2 ^ Z.of_nat sz` even under a `simpl never` head, the six example files whose proofs rewrite with word lemmas after a `simpl` declare `#[local] Arguments Z.pow : simpl never` and the same for `Z.of_nat`; no global `simpl never` anywhere. `Semantics.v` (`evalVec`, `wordVecDec'`), `Tactics.v` and the Multiplier, Divider and Fifo examples are adapted; the whole tree builds in about 100 s at -j144 (Word.v alone in about 2 minutes). No new axioms; the pre-existing `Axiom cheat` in `CommonTactics.v` is untouched. `MultNumPhases`/`DivNumPhases` read `pow2 k` instead of `wordToNat (wones k) + 1` (same value; the latter no longer reduces under `cbn`).

Not done here: `Kami/Ext/Ocaml/PP.ml` still pattern-matches on the extracted `WO`/`WS` constructors, so the Bluespec extraction pipeline needs a follow-up; no Coq file depends on it.

This requires rocq-stdlib >= 9.1 (Kami's CI already tests only Rocq dev). It is the Kami side of the wider move of coqutil's `Word.Naive` (mit-plv/coqutil#186) and fiat-crypto's `F` (mit-plv/fiat-crypto#2434) onto stdlib `Zmod`/`bits`; the bedrock2 bridge simplification that pins this commit will be linked in a comment once open.

Written by Claude Fable 5.1 and Claude Opus 5.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm

### CODE REVIEW

**Comment by JasonGross** [comment]
CI note: this PR comes from a fork, so the workflow needs a maintainer's approval to run here. Reproduced the docker job locally on a clean copy of de19289 in `rocq/rocq-prover:dev` (Rocq 9.3+alpha, rocq-stdlib dev): `make -j` exits 0 with no errors in 3m55s.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

**Comment by JasonGross** [comment]
bedrock2 side: mit-plv/bedrock2#562 (thin KamiWord bridge, pins this branch; stacked on mit-plv/bedrock2#561).

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

**Comment by JasonGross** [comment]
Follow-up on the bedrock2 side: mit-plv/bedrock2#563 unifies the Kami word instance with coqutil's Naive.word.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Semantics.v [hunk 1]
```diff
@@ -11,25 +11,14 @@ Set Asymmetric Patterns.
...
-                     then fun _ => evalVec _ v2 (_ w')
-                     else fun _ => evalVec _ v1 (_ w')
-                 end eq_refl
-           end;
-    clear evalVec.
-    - abstract (intros; discriminate).
-    - injection e; intros; subst; exact x.
-    - injection e; intros; subst; exact x.
-  Defined.
+  (* [word] is no longer an inductive type, so the head bit and the tail are
```
Comment (andres-erbsen) [inline Kami/Semantics.v]: Comments describing the change should not be added to the code but rather to the commit description

File: Kami/Lib/Word.v [hunk 2]
```diff
@@ -393,9 +276,790 @@ Notation "l ^>> r" := (@wrshift _ _ l%word r%word) (at level 35).
...
+Proof.
+  intros. apply Z.mod_add; lia.
+Qed.
+
+Lemma Zmod_opp_sub : forall z p, p <> 0 -> (- z) mod p = (p - z) mod p.
+Proof.
+  intros. replace (p - z) with (- z + 1 * p) by lia. rewrite Z.mod_add; lia.
+Qed.
+
+Lemma Zplus_pminus_mod : forall a b p, p <> 0 -> (a + (p - b)) mod p = (a - b) mod p.
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v]: This file is a grab-bag of generated lemmas. Could we consider an alternative PR where `Zmod` is used more directly instead of re-proving a bunch of operations using the nat-indexed view? It's possible that the downstream proofs are even messier to fix that way, but a comparison would be valuable.

**Comment by JasonGross** [comment]
Comparison of this PR (`fable/word-on-bits`, aff07cc) with the alternate #52 (`fable/word-on-zmod`, 2b56370), as asked in the review. Same machine, same base `rv32i`, -j144.

| | this PR | alternate #52 |
|---|---|---|
| `Word.v` lines | 5352 | 953 (+ `WordDerived.v` 645) |
| lemmas in `Word.v` | 616 | 75 (+128 derived, 79 of them one-line `word_lia_Z`) |
| Kami files changed vs `rv32i` | 9 (+2571/-4660) | 15 (+1902/-8346) |
| changed public statements | none intended | about ten families (below) |
| Kami build, wall | 277 s | 102 s |
| bedrock2 processor + end2end | builds (baseline) | builds; 5 processor files ported (+95/-146), end2end untouched; `KamiRiscvStep.v` 481 s (same as here) |

Statement changes on the alternate: `wlt`/`wslt` are `Z.lt` on `unsigned`/`signed` (were `N.lt` on `wordToN`); `evalBinBitBool (Lt/Slt)` is `Z.ltb` and `evalBinBit (Mul)` is `Zmod.mul` (provably, not convertibly, equal to the old forms); `wordToZ` is `Zmod.signed`; `wzero`/`wones` are `Zmod.zero`/`Zmod.opp Zmod.one`; `sext`/`zext`/`extz` are `of_Z` of their value rather than `combine`s; 416 of the 574 `Word.v` names are gone (43 of them were used downstream).

Where the alternate is cleaner: the Fifo proofs (25 sites like `rewrite wminus_def, <-wplus_assoc, wminus_inv, wplus_comm. apply wplus_unit.` become `word_lia_Z`; a 27-line `exfalso` chain becomes one line); tutorial-style algebra uses `Zmod.mul_comm`/`Zmod.mul_add_l` directly; in bedrock2, `is_mmio_spec` and `wlt_kunsigned` lose their N-to-Z conversion layer (17 and 6 lines become 8 lines and `reflexivity`).

Where it is messier: the Multiplier "product halves" step goes from 13 lines in the signed view to a proof through `unsigned` where the implicit modulus is spelled three ways after `cbn` and every stdlib rewrite must be told which; Kami's `` carries a computed implicit modulus after `simpl in *`, so `eauto` no longer closes the eight `wplus_one_neq` sites; the bedrock2 branch cases need a tactic that `change`s the riscv spelling of `word.signed` to Kami's and canonicalises moduli; and the `lia` hammer has to do the mod reasoning the nat lemmas encapsulated (one Fifo goal took over 10 minutes until the hammer was restructured; 17 derived lemmas still need hand proofs). It also needs `Arguments Zmod.<op> : simpl never` on 16 stdlib constants globally, which this PR avoids, because Kami's tactics `simpl` everywhere.

Recommendation: keep this PR's design, and take from the alternate what is cheap and clearly better: stdlib lemmas at downstream use sites where they apply syntactically, `Lt`/`Slt` as `Z.ltb` (with the two affected bedrock2 lemmas ported in the same PR), and `of_Z`-based `sext`/`zext`/`extz`. Switching to the alternate instead costs the 15-file Kami change plus the 5-file bedrock2 change and the statement changes above, for a 2.7x faster Kami build and a 5.6x smaller `Word.v`.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Semantics.v (hunk 1 above)
Comment (JasonGross) [reply Kami/Semantics.v]: Done: the change-describing comments are removed across the whole diff (Semantics.v, Word.v, the Divider, Multiplier and Fifo examples) and their substance is in the commit messages; the diff against the previous tip is comments only, so the build is unchanged.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 2 above)
Comment (JasonGross) [reply Kami/Lib/Word.v]: Done as #52, with the comparison in https://github.com/mit-plv/kami/pull/51#issuecomment-5655934067. Short version: 5.6x smaller Word.v and a 2.7x faster Kami build, but about ten public statements change shape, the Multiplier and Divider proofs get messier because the modulus is spelled several ways after simpl, and it needs global simpl never on stdlib's Zmod constants for every importer. Recommendation is to keep this PR's design and take the cheap wins (stdlib lemmas at use sites, Lt/Slt as Z.ltb, of_Z-based sext/zext/extz).

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

**Comment by JasonGross** [comment]
Applied the cheap wins from the #52 comparison as three commits on top of aff07cc (tip 29c7e87): `Lt`/`Slt` (and `Mul`) now evaluate to `Z.ltb`/`Zmod.mul` directly; `sext`/`zext`/`extz` are `of_Z` of their value, with the `combine` spellings kept as lemmas; and the four Word.v lemmas that were literally stdlib lemmas (`unsigned_inj`, `unsigned_ofZ`, `unsigned_ofZ_small`, `ofZ_unsigned`) are gone in favour of the `Zmod.*` names. Word.v now compiles in 122 s instead of 190 s, the tree in 95 s instead of 277 s.

Turning `wplus`/`wminus`/... into notations for the stdlib operations was measured and does not work with `word n := bits (Z.of_nat n)`: any `simpl` normalizes the exposed modulus `2 ^ Z.of_nat sz`, after which no lemma over `word sz` rewrites (six example files break at the same lines with and without a global `simpl never` on the 14 stdlib constants), and the fix is #52's named-modulus design, i.e. the whole alternate rather than a cheap win. No theorem statement of Kami's examples changes meaning; the bedrock2 side (mit-plv/bedrock2#562, #563) is re-pinned and adapted in the same round.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

**Comment by andres-erbsen** [comment]
Hmm, `bits` seems more appealing than a custom bits-like Zmod wrapper, but also being able to use stdlib Zmod.add would be very nice. What is the purpose of these simpl calls that are giving trouble with `bits` and `Zmod.add`? Could they be replaced with `cbn` with appropriately controlled arguments?

**Comment by JasonGross** [comment]
Done as you suggested (tip c0f853a): `word n := bits (Z.of_nat n)` stays, and `wplus`, `wminus`, `wmult`, `wneg`, `wand`, `wor`, `wxor`, `wnot`, `weqb`, `wzero`, `wone`, `ZToWord`, `uwordToZ`, `wordToZ` are notations for the `Zmod` operations, so the 32 Word.v lemmas that were stdlib lemmas modulo those names are gone and use sites say `Zmod.add_comm`, `Zmod.unsigned_add`, etc. (list in the commit message).

The `simpl` calls that broke were never about words: they unfold Kami's own fixpoints and `evalExpr` and compute `nat` widths (e.g. `fifo_nfifo_elt_not_full` in FifoCorrect, the Booth step in Multiplier, the `kinv_*` tactic library in every file). What they did to `Zmod.add` was only to normalize its now visible modulus argument `2 ^ Z.of_nat sz` into `Z.pow_pos 2 (Pos.of_succ_nat _)` or a literal, after which lemmas keyed on `2 ^ Z.of_nat ?sz` stop matching; that is also why `Arguments Zmod.<op> : simpl never` changed nothing. Controlled reduction fixes it: `#[local] Arguments Z.pow : simpl never` and the same for `Z.of_nat` in the six example files (and in bedrock2's KamiRiscvStep.v) leave every one of their 338 `simpl`/`cbn` calls as it was; per-site `cbn [..]` lists work too but would be 300+ edits and cannot reach the tactic library's own `simpl`s. No global `simpl never` on anything. bedrock2 (mit-plv/bedrock2#562, #563) is re-pinned and adapted in the same round; KamiRiscvStep.v compiles in the same time as before.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v [hunk 3]
```diff
@@ -12,224 +27,128 @@ Set Implicit Arguments.
...
 (** * Combining and splitting *)
 
-Fixpoint combine (sz1 : nat) (w : word sz1) : forall sz2, word sz2 -> word (sz1 + sz2) :=
-  match w in word sz1 return forall sz2, word sz2 -> word (sz1 + sz2) with
-    | WO => fun _ w' => w'
-    | WS b w' => fun _ w'' => WS b (combine w' w'')
-  end.
+Definition combine (sz1 : nat) (w : word sz1) (sz2 : nat) (w' : word sz2)
+  : word (sz1 + sz2) :=
+  ofZ _ (unsigned w + 2 ^ Z.of_nat sz1 * unsigned w').
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v:82]: Should we be using stdlib append instead? Maybe also for WS?

File: Kami/Lib/Word.v [hunk 4]
```diff
@@ -12,224 +27,128 @@ Set Implicit Arguments.
...
 
-Definition weq : forall sz (x y : word sz), {x = y} + {x <> y}.
-  refine (fix weq sz (x : word sz) : forall y : word sz, {x = y} + {x <> y} :=
-    match x in word sz return forall y : word sz, {x = y} + {x <> y} with
-      | WO => fun _ => left _ _
-      | WS b x' => fun y => if bool_dec b (whd y)
-        then if weq _ x' (wtl y) then left _ _ else right _ _
-        else right _ _
-    end); clear weq.
+Definition wtl sz (w : word (S sz)) : word sz := ofZ _ (unsigned w / 2).
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v:65]: would stdlib shr work at least as easily?

File: Kami/Lib/Word.v [hunk 5]
```diff
@@ -12,224 +27,128 @@ Set Implicit Arguments.
...
+Definition split1 (sz1 sz2 : nat) (w : word (sz1 + sz2)) : word sz1 :=
+  ofZ _ (unsigned w).
 
-Fixpoint split2 (sz1 sz2 : nat) : word (sz1 + sz2) -> word sz2 :=
-  match sz1 with
-    | O => fun w => w
-    | S sz1' => fun w => split2 sz1' sz2 (wtl w)
-  end.
+Definition split2 (sz1 sz2 : nat) (w : word (sz1 + sz2)) : word sz2 :=
+  ofZ _ (unsigned w / 2 ^ Z.of_nat sz1).
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v:88]: would stdlib bits skipn work well here?

File: Kami/Lib/Word.v [hunk 6]
```diff
@@ -12,224 +27,128 @@ Set Implicit Arguments.
...
+  : word (sz1 + sz2) :=
+  ofZ _ (unsigned w + 2 ^ Z.of_nat sz1 * unsigned w').
 
-Fixpoint split1 (sz1 sz2 : nat) : word (sz1 + sz2) -> word sz1 :=
-  match sz1 with
-    | O => fun _ => WO
-    | S sz1' => fun w => WS (whd w) (split1 sz1' sz2 (wtl w))
-  end.
+Definition split1 (sz1 sz2 : nat) (w : word (sz1 + sz2)) : word sz1 :=
+  ofZ _ (unsigned w).
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v]: would stdlib bits firstn work well here?

File: Kami/Lib/Word.v [hunk 7]
```diff
@@ -12,224 +27,128 @@ Set Implicit Arguments.
...
   NToWord sz (f (wordToN x) (wordToN y)).
 
-Definition wplus := wordBin Nplus.
-Definition wmult := wordBin Nmult.
-Definition wdiv := wordBin N.div.
-Definition wmod := wordBin Nmod.
+Notation wplus := Zmod.add.
+Notation wmult := Zmod.mul.
+Definition wdiv sz (x y : word sz) : word sz := ofZ _ (unsigned x / unsigned y).
+Definition wmod sz (x y : word sz) : word sz := ofZ _ (unsigned x mod unsigned y).
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v]: Are some Zmod division definitions suitable for use here?

File: Kami/Lib/Word.v [hunk 8]
```diff
@@ -238,60 +157,38 @@ Definition wminusN sz (x y : word sz) : word sz := wplusN x (wnegN y).
...
-
-Definition ZToWord (sz : nat) (z : Z) : word sz :=
-  match z with
-  | Z0 => wzero' sz
-  | Zpos x => posToWord sz x
-  | Zneg x => wneg (posToWord sz x)
-  end.
+Notation wordToZ := Zmod.signed.
+Notation uwordToZ := Zmod.unsigned.
+Notation ZToWord sz z := (Zmod.of_Z (2 ^ Z.of_nat sz) z).
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v]: can we use bits.of_Z here?

File: Kami/Lib/Word.v [hunk 9]
```diff
@@ -360,31 +257,19 @@ Proof.
...
+Definition wrshift (sz : nat) (w : word sz) (n : nat) : word sz :=
+  ofZ _ (unsigned w / 2 ^ Z.of_nat n).
 
-Definition wrshifta (sz : nat) (w : word sz) (n : nat) : word sz.
-  refine (split2 n sz _).
-  rewrite Nat.add_comm.
-  exact (sext w _).
-Defined.
+Definition wrshifta (sz : nat) (w : word sz) (n : nat) : word sz :=
+  ofZ _ (Zmod.signed w / 2 ^ Z.of_nat n).
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v]: could we use stdlib Zmod sru and srs?

File: Kami/Lib/Word.v [hunk 10]
```diff
@@ -360,31 +257,19 @@ Proof.
...
 
-Definition extz {sz} (w: word sz) (n: nat) := combine (wzero n) w.
+Definition extz {sz} (w: word sz) (n: nat) : word (n + sz) :=
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v:121]: Could we use stdlib bits app here?

File: Kami/Lib/Word.v [hunk 11]
```diff
@@ -393,9 +278,722 @@ Notation "l ^>> r" := (@wrshift _ _ l%word r%word) (at level 35).
...
+         | H : context [Z.of_nat (?a - ?b)] |- _ => rewrite (Nat2Z.inj_sub a b) in H by lia
+         end;
+  repeat first [ rewrite Nat2Z.inj_mul in * | rewrite Nat2Z.inj_add in * | rewrite Nat2Z.inj_pow in *
+               | rewrite Nat2Z.inj_div in * | rewrite Nat2Z.inj_mod in * | rewrite Npow2_Z in *
+               | rewrite N2Z.inj_mul in * | rewrite N2Z.inj_add in * | rewrite N2Z.inj_div in *
+               | rewrite N2Z.inj_mod in * | rewrite N2Z.inj_pow in * | rewrite nat_N_Z in * ];
+  change (Z.of_nat 0) with 0%Z in *; change (Z.of_nat 1) with 1%Z in *;
+  change (Z.of_nat 2) with 2%Z in *;
+  change (Z.of_N 0) with 0%Z in *; change (Z.of_N 1) with 1%Z in *;
+  change (Z.of_N 2) with 2%Z in *.
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v]: Coudl this be implemented simpler and more robustly using rewrite_strat with a `fix` rewrite strategy, running one hint database before recursing into the subterms and another after?

File: Kami/Lib/Word.v [hunk 12]
```diff
@@ -393,9 +278,722 @@ Notation "l ^>> r" := (@wrshift _ _ l%word r%word) (at level 35).
...
+  || (rewrite Zmod_add_mul_l in * by word_side) || (rewrite Zdiv_add_mul_l in * by word_side)
+  || (rewrite Z.div_div in * by word_side)
+  || rewrite Zminus_mod_idemp_l in * || rewrite Zminus_mod_idemp_r in *
+  || (rewrite Zopp_mod_idemp in * by word_side)
+  || (rewrite Zmod_2mul_odd in * by word_side) || (rewrite Zmod_2mul_odd' in * by word_side)
+  || (rewrite Zmod_opp_sub in * by word_side)
+  || (rewrite Zmod_2mul_split in * by word_side)
+  || (rewrite Zmod_mul2_split in * by word_side)
+  || (rewrite Zmod_mul_split in * by word_side).
+
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v]: Would these with in the post-recursion hint database of a rewrite_strat pass?

File: Kami/Lib/Word.v [hunk 13]
```diff
@@ -393,9 +278,722 @@ Notation "l ^>> r" := (@wrshift _ _ l%word r%word) (at level 35).
...
+           | |- context [(?y mod ?p)%Z] => mod_args_unify_1 x y
+           | H' : context [(?y mod ?p)%Z] |- _ => mod_args_unify_1 x y
+           end
+         end.
+
+(** A big hammer: [lia], then [nia], then [nia] with division facts. *)
+Ltac word_lia_Z :=
+  word_to_Z; try subst; rewrite ?Z.sub_diag in *;
+  first [ lia
+        | (word_mod_simpl; mod_args_unify; first [ lia | (f_equal; lia) | congruence | nia ])
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v:699]: Where is this ad-hoc case needed? if it's just a few places, maybe inline it there instead of adding it to this generic tactic?

File: Kami/Lib/Word.v [hunk 14]
```diff
@@ -393,9 +278,722 @@ Notation "l ^>> r" := (@wrshift _ _ l%word r%word) (at level 35).
...
+        | nia
+        | (zify; Z.div_mod_to_equations; nia) ].
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v]: `word_lia_Z` should not call `nia`;  we could have a separate `word_nia_Z` though

File: Kami/Lib/Word.v [hunk 15]
```diff
@@ -2939,131 +2671,185 @@ Lemma induct_word_S: forall (P : forall n : nat, word (S n) -> Prop),
...
+Definition word_rec (P : forall n, word n -> Set) := word_rect P.
+
+(** [word_destruct w] splits a [word (S _)] into its head bit, named [b],
+    and its tail, which reuses the name [w]. *)
+Tactic Notation "word_destruct" ident(w) :=
+  (try (intros until w));
+  let b := fresh "b" in
+  let v := fresh "v" in
+  let Hv := fresh "Hv" in
+  destruct (destruct_word_S w) as [v [b Hv]]; subst w; rename v into w.
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v]: Where is this tactic used, and could it be removed instead of doing the same ad-hoc destruct inline?

File: Kami/Lib/Word.v [hunk 16]
```diff
@@ -12,224 +27,128 @@ Set Implicit Arguments.
...
+(** * MSB, LSB, head, and tail *)
 
-Lemma shatter_word : forall n (a : word n),
-  match n return word n -> Prop with
-    | O => fun a => a = WO
-    | S _ => fun a => a = WS (whd a) (wtl a)
-  end a.
-  destruct a; eauto.
-Qed.
+Definition wmsb sz (w : word sz) (a : bool) : bool :=
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v]: Would it be overall simpler to define this as `Zmod.signed w <? 0`

**Review by andres-erbsen — COMMENTED** [review]
Please review Word.v for duplicative proofs (with itself or stdlib), content that is unused throughout all related repositories, and consider whether some of the simplifications that https://github.com/mit-plv/kami/pull/52 enabled are now applicable on top of the current strategy as well.

File: Kami/Lib/Word.v (hunk 16 above)
Comment (JasonGross) [reply Kami/Lib/Word.v]: Done: `wmsb w a` is `Zmod.signed w <? 0` for a nonempty word and `a` for width 0 (the callers pass the default there). `wmsb_testbit` is now `bits.testbit_sign`; the other lemmas about `wmsb` keep their statements.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 4 above)
Comment (JasonGross) [reply Kami/Lib/Word.v:65]: Not moved, because the types do not line up: `wtl : word (S sz) -> word sz`, but `Zmod.sru w 1` stays at width `S sz`, and `bits.skipn 1 w` has type `bits (Z.of_nat (S sz) - 1)`, which is not convertible to `bits (Z.of_nat sz)` for a variable `sz`. It stays `of_Z _ (unsigned w / 2)` with its one spec lemma.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 3 above)
Comment (JasonGross) [reply Kami/Lib/Word.v:82]: Not moved for the same typing reason: `bits.app a b : bits (Z.of_nat sz1 + Z.of_nat sz2)` against `word (sz1 + sz2) = bits (Z.of_nat (sz1 + sz2))`, and a one-bit `app` for `WS` gives `bits (1 + Z.of_nat n)` against `bits (Z.of_nat (S n))`; neither is convertible with a variable width. Both stay `of_Z` of the value; their specs are what `bits.unsigned_app` says once `Z.shiftl`/`Z.lor` are unfolded.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 6 above)
Comment (JasonGross) [reply Kami/Lib/Word.v]: Done: `split1 sz1 sz2 w := Zmod.firstn (Z.of_nat sz1) w` (the types agree exactly), and `unsigned_split1` is `bits.unsigned_firstn`.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 5 above)
Comment (JasonGross) [reply Kami/Lib/Word.v:88]: Not moved: `bits.skipn (Z.of_nat sz1) w : bits (Z.of_nat (sz1 + sz2) - Z.of_nat sz1)`, not convertible to `bits (Z.of_nat sz2)` for variable widths.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 7 above)
Comment (JasonGross) [reply Kami/Lib/Word.v]: Partly: `wmod` is `Zmod.umod` and `wremZ` is `Zmod.srem` (both agree with Kami at a zero divisor), and `unsigned_wmod` is `Zmod.unsigned_umod`. `wdiv`/`wdivZ` keep Kami's `x / 0 = 0` (stdlib's `udiv`/`squot` give `-1` there, and the `Div` semantics is a public statement), stated over `Zmod.udiv`/`Zmod.squot` with the zero test in front. The unused members of that family (`wmult'`, `wdivZsu`, `wremZsu`, most of `wordBinZ`/`wordBinN`) are deleted.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 8 above)
Comment (JasonGross) [reply Kami/Lib/Word.v]: Done: `ZToWord sz z := bits.of_Z (Z.of_nat sz) z`. `natToWord`/`NToWord` stay `simpl never` definitions over `Zmod.of_Z`, because otherwise `simpl` turns `$5` into `of_Z _ 5` and the `nat`-keyed lemmas stop matching.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 9 above)
Comment (JasonGross) [reply Kami/Lib/Word.v]: Done: `wrshift`, `wrshifta` and `wlshift` are notations for `Zmod.sru`, `Zmod.srs` and `Zmod.slu` at `Z.of_nat n`; the `unsigned_*` specs keep their statements.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 10 above)
Comment (JasonGross) [reply Kami/Lib/Word.v:121]: Not moved: `bits.app (wzero n) w : bits (Z.of_nat n + Z.of_nat sz)` against `word (n + sz)`, not convertible for variable widths; `extz` stays `of_Z (2 ^ Z.of_nat n * unsigned w)`.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 11 above)
Comment (JasonGross) [reply Kami/Lib/Word.v]: Measured. The `Z.of_nat`/`pow2` pushing is now two `autorewrite` databases (the order matters: `Nat2Z.inj_add` before `pow2_add_Z` leaves a `2 ^ (a + b)` that nothing matches). For the `unsigned` pass, `rewrite_strat (topdown (hints ...))` on the goal and each hypothesis costs the same as `autorewrite` (5.7 s over this file) and yields a normal form on which two proofs no longer close, so `autorewrite ... in *` stays. The outer `repeat progress` loop exists because `canon_unsigned` is not a rewrite (it respells the implicit modulus of `unsigned` to the width in the argument type), which no rewrite strategy can interleave.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 12 above)
Comment (JasonGross) [reply Kami/Lib/Word.v]: Tried as a database: `autorewrite` applies each rule exhaustively in list order, while this chain applies one step of the first applicable rule and restarts, and the two normal forms differ (`wlshift_sext_extz` and others stop closing). The per-occurrence `Z.mod_small` loop cannot be a hint either, since a failing `using` side condition at the first occurrence ends the rule. The chain stays, with a comment saying why.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 13 above)
Comment (JasonGross) [reply Kami/Lib/Word.v:699]: Removed from the tactic; nothing needed it once the pow2 rewriting keeps its order.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 14 above)
Comment (JasonGross) [reply Kami/Lib/Word.v]: Done: `word_lia_Z` ends in `lia`; `word_nia_Z` is the `nia` variant, used by exactly one lemma.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 15 above)
Comment (JasonGross) [reply Kami/Lib/Word.v]: It had no user; deleted with the rest of the unused content.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

**Comment by JasonGross** [comment]
Done (tip dbba41f, four commits on c0f853a): Word.v goes from 5147 to 2157 lines, 582 to 201 lemmas, 61 to 32 definitions, 43 to 30 tactics, and WordSupport.v is gone. 415 items that nothing references (checked transitively against Kami, both bedrock2 branches, coqutil, fiat-crypto and rupicola; the last three do not use Kami) are deleted; three lemmas that were stdlib or NatLib lemmas (`wordToZ_inj`, `Npow2_Z`, `unsigned_wmod`) are replaced by the stdlib names; two pairs with the same statement are merged; nothing else in the remaining 201 duplicates another up to spelling.

From #52, what applies on top of this strategy is now in: `Lt`/`Slt`/`Mul` evaluating to the stdlib operations, `sext`/`zext`/`extz` as `of_Z` of the value, the operations as notations for the stdlib ones with stdlib lemmas at use sites, and `wmsb` as `signed <? 0`; the derived facts are proved by `unsigned_*` plus `lia`. What does not carry over: the named-modulus constant (not needed once `simpl` leaves `Z.pow`/`Z.of_nat` alone), the separate derived file (the file is small now), and the hammer's case-split fallback (no proof needs it). Word.v compiles in 51 s (190 s at the first push). The per-comment answers are on the threads; bedrock2 #562/#563 are re-pinned and adapted.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

**Comment by andres-erbsen** [comment]
I think this is good enough for now. Let's wait for the coqutil PR and its adaptations to land before continuing with this one. In the meantime, please create PRs to port https://github.com/mit-plv/quartz and https://github.com/mit-plv/granite to use bits instead of stdpp bit vectors.

File: Kami/Lib/Word.v [hunk 17]
```diff
@@ -1481,5846 +981,1177 @@ Ltac wcst w :=
...
-  unfold uwordToZ.
-  rewrite ZToWord_Z_of_N.
-  apply NToWord_wordToN.
+  word_lia_Z.
 Qed.
 
-Lemma wordToN_neq_0: forall sz (b : word sz),
-    b <> $0 ->
-    wordToN b <> 0%N.
+Lemma wmsb_sext:
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v]: Could this lemma have an easier proof using properties of <? and Zmod.signed?

File: Kami/Lib/Word.v [hunk 18]
```diff
@@ -1481,5846 +981,1177 @@ Ltac wcst w :=
...
-  specialize (C H). discriminate.
+  intros; destruct sz; [lia|]; cbv [wmsb]; symmetry; apply bits.testbit_sign; lia.
 Qed.
 
-Lemma wmul_mod_distr_does_not_hold: ~ forall sz (a b n: word sz),
-    n <> $0 ->
-    (a ^* b) ^% n = ((a ^% n) ^* (b ^% n)) ^% n.
+Lemma wmsb_wlshift_sext:
+  forall sz (w: word sz) n,
+    wmsb (sext w n) false = wmsb (wlshift (sext w n) n) false.
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v]: Could this lemma have an easier proof using the definition of wmsb in terms of <? sign of the argument?

File: Kami/Lib/Word.v [hunk 19]
```diff
@@ -12,303 +27,153 @@ Set Implicit Arguments.
...
-Definition wplus := wordBin Nplus.
-Definition wmult := wordBin Nmult.
-Definition wdiv := wordBin N.div.
-Definition wmod := wordBin Nmod.
-Definition wmult' sz (x y : word sz) : word sz :=
-  split2 sz sz (NToWord (sz + sz) (Nmult (wordToN x) (wordToN y))).
-Definition wminus sz (x y : word sz) : word sz := wplus x (wneg y).
-Definition wnegN sz (x : word sz) : word sz :=
-  natToWord sz (pow2 sz - wordToNat x).
+Notation wneg := Zmod.opp.
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v]: When using `Notation` for abbreviations, always use `(only parsing)`. However, here we don't  need abbreviations at all -- just replace uses of these functions with uses of corresponding stdlib functions.

File: Kami/Lib/Word.v [hunk 20]
```diff
@@ -12,303 +27,153 @@ Set Implicit Arguments.
...
 Definition sext (sz : nat) (w : word sz) (sz' : nat) : word (sz + sz') :=
-  if wmsb w false then
-    combine w (wones sz')
-  else
-    combine w (wzero sz').
+  ofZ _ (Zmod.signed w).
 
 Definition zext (sz : nat) (w : word sz) (sz' : nat) : word (sz + sz') :=
-  combine w (wzero sz').
+  ofZ _ (unsigned w).
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v:96]: Do we have enough use for theory about zext and sext to keep definitions for them, or should they be inlined instead?

**Comment by andres-erbsen** [comment]
The code proposed in this PR still does not read like idiomatic Zmod/bits usage -- it's clear that the stdlib functions were adapted in place of a different design. Consider alternatives, improvements, and simpifications that would lead to a more conventional usage of Zmod. If nothing works better, we can stick to what's here now.

File: Kami/Lib/Word.v (hunk 17 above)
Comment (JasonGross) [reply Kami/Lib/Word.v]: Yes: with `wmsb w a = (Zmod.signed w <? 0)` for a nonempty word (`wmsb_S`) the lemma is `sext_wordToZ` on both sides, and for the empty word `Zmod.signed_pos_bound` at modulus 1 gives `signed w = 0`, so the test is false. 27 lines become 11 (f3d7334).

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 18 above)
Comment (JasonGross) [reply Kami/Lib/Word.v]: Yes: after `wmsb_S` both sides are sign tests; the shifted side's `signed` is `Z.smodulo` of its unsigned value (`bits.smod_unsigned`, `Zmod.unsigned_slu`, `unsigned_sext`), which `Z.smod_pow2_small` turns into `signed w * 2 ^ n`, and `Z.ltb_spec` with `2 ^ n > 0` finishes. The testbit/split1 detour is gone; the proof is about the same length only because the empty-word case still needs its own three lines (f3d7334).

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 19 above)
Comment (JasonGross) [reply Kami/Lib/Word.v]: Done (58c39ca): the abbreviations are gone and every use site names the stdlib function (`Zmod.add`, `Zmod.eqb`, `bits.of_Z`, ...). Kami's infix syntax (`^+`, `^-`, `^*`, `^~`, `^|`, `^&`, `^/`, `^%`, `^<<`, `^>>`) and the `$`/`#` literal forms stay as notations bound directly to the stdlib operations; the two remaining local abbreviations are `(only parsing)`. bedrock2's bridge (#562/#563) is adapted to the new spellings.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 20 above)
Comment (JasonGross) [reply Kami/Lib/Word.v:96]: Kept: `zext`/`sext` have 24 lemmas and 118 use sites across Kami and bedrock2's processor, so inlining `Zmod.of_Z _ (Zmod.unsigned w)` / `Zmod.of_Z _ (Zmod.signed w)` everywhere would lose more than it saves; the definitions are exactly those terms, so the stdlib lemmas apply after one unfold.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v [hunk 21]
```diff
@@ -12,310 +27,137 @@ Set Implicit Arguments.
...
-  match sz with
-    | O => WO
-    | S sz' =>
-      match p with
-        | xI p' => WS true (posToWord sz' p')
-        | xO p' => WS false (posToWord sz' p')
-        | xH => WS true (wzero' sz')
-      end
-  end.
+Definition wzero' (sz : nat) : word sz := ofZ _ 0.
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v]: Can we get rid of this definition in favor of Zmod.zero? Are there any other similarly redundant definitions?

File: Kami/Lib/Word.v [hunk 22]
```diff
@@ -12,310 +27,137 @@ Set Implicit Arguments.
...
-    | WS b w' => WS (negb b) (wnot w')
-  end.
-
-Fixpoint bitwp (f : bool -> bool -> bool) sz (w1 : word sz) : word sz -> word sz :=
-  match w1 with
-    | WO => fun _ => WO
-    | WS b w1' => fun w2 => WS (f b (whd w2)) (bitwp f w1' (wtl w2))
+(** [bitwp f] applies [f] bit by bit; it is only used to state facts about
+    the bitwise operators below, which are the [Zmod] ones. *)
+Fixpoint bitwp (f : bool -> bool -> bool) (sz : nat) : word sz -> word sz -> word sz :=
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v]: Can we get rid of this definition? are there any other ultimately unused definitions?

**Comment by andres-erbsen** [comment]
Please prepare a follow-up PR for the BlueSpec extraction pipeline; also add a CI target that tests it.

**Comment by JasonGross** [comment]
Follow-up prepared as #53 (stacked on this PR): it fixes the extraction (`wordToNat` is extracted for the printer; `comparison` extracts to an `int` so Kami's `Eq`/`Lt` keep their names) and the rv32i Bluespec output is byte-identical to before. It adds `make bluespec-test` with a committed expected Proc.bsv and a CI step that runs it after the build.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 21 above)
Comment (JasonGross) [reply Kami/Lib/Word.v]: Deleted (51a6a0f): it was `Zmod.zero` under another name, and its lemmas were `Zmod.unsigned_0`/`Zmod.signed_0`. The same pass made `wones` the stdlib's `-1` (`Zmod.opp Zmod.one`) and `wlt` plain `Z.lt` on `Zmod.unsigned`; every remaining definition was checked against the stdlib's Zmod/bits modules and none is a stdlib value under another name (30 definitions are left, from 61).

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 22 above)
Comment (JasonGross) [reply Kami/Lib/Word.v]: Deleted (a84d229), together with everything else the unused-content sweep found on the current tip: `bitwp` and its lemma chain, `wones`, `wlsb`, `posToWord`, `wdiv`, `wordBinN`, `wslt`, `wlt_dec`, the unused infix notations (`^%`, `^|`, `^&`, `^<<`, `^>>`, the `<s` family), and `WO` is now an only-parsing abbreviation of `Zmod.zero`. The sweep is transitive over Kami, bedrock2's processor and end2end, coqutil, fiat-crypto and rupicola (the last three do not use Kami); Word.v is now 1864 lines, 182 lemmas, 21 definitions (from 5147/582/61 when this review started), each with at least one user.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

**Comment by JasonGross** [comment]
Done what pays for itself (51a6a0f): `wones` is the stdlib's `-1`, `wlt` is `Z.lt` on `unsigned` with `wlt_dec := Z_lt_dec`, the two aliases of stdlib values are gone, and after the earlier rounds every operation with a stdlib counterpart is used by its stdlib name. Word.v is now 2093 lines, 200 lemmas, 30 definitions (from 5147 / 582 / 61 when this review started).

What is still Kami-shaped, and why it was left:

1. `word n := bits (Z.of_nat n)` with a `nat` width. Every Kami type (`Bit n`, `Vector _ n`, `Struct`), every example statement and every bedrock2 processor lemma is indexed by `nat`; the `Z.of_nat` at the modulus is what keeps `Zmod.app`/`firstn`/`skipn` from being the definitions of `combine`/`split2`/`extz` (their indices `Z.of_nat a + Z.of_nat b` are not convertible to `Z.of_nat (a + b)`), and it is why six example files need `Arguments Z.of_nat : simpl never`. Making `Bit : Z -> Kind` is a Kami-core rewrite (Syntax, Semantics, every example, the bedrock2 processor bridge): weeks, not hours.
2. `natToWord`/`wordToNat`/`wordToN`/`NToWord` and the `$n`/`#n` syntax: 300 use sites in the examples and 72 `wordToN` sites in bedrock2, because the examples state their specs in `nat` (the divider's `wdivN`/`wremN`, the Booth multiplier's counters). Moving those specs to `Z` changes their theorem statements.
3. The `WO~0~1` bit-literal syntax (4221 occurrences, instruction encodings in IsaRv32/SC/ProcDec) and `whd`/`wtl` (101): the stdlib idiom would be `of_Z` literals and `testbit`/`firstn`/`skipn`; left as syntax over the stdlib values.
4. The `existT` transport lemmas exist because `Bit (n + m)` and `Bit (m + n)` are different types; a `Z` index has the same issue (the stdlib's own `_dep` variants of `app_assoc`).
5. The hammer's nat-to-Z layer is the price of 1 and 2; its core (`unsigned_*` rewriting, `Z.mod` normalisation, `lia`) is what a stdlib user would write.
6. The infix `^+`/`^-`/... syntax stays because the examples open `kami_expr_scope`, where `+`/`*`/`<` build Kami expressions.
7. `wdivN`/`wremN` (nat division) are the divider's theorem statements; `wdiv`/`wdivZ` keep Kami's `x / 0 = 0` over `Zmod.udiv`/`squot`; `weq` stays because the stdlib has no `Zmod.eq_dec`.

If any of 1 to 3 is wanted, it is a separate PR with statement changes in the examples.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v [hunk 23]
```diff
@@ -12,1446 +27,831 @@ Set Implicit Arguments.
...
-
-Definition wmultN := wordBinN mult.
-Definition wmultN' sz (x y : word sz) : word sz :=
-  split2 sz sz (natToWord (sz + sz) (mult (wordToNat x) (wordToNat y))).
-Definition wdivN := wordBinN Nat.div.
-Definition wremN := wordBinN Nat.modulo.
-
-Definition wminusN sz (x y : word sz) : word sz := wplusN x (wnegN y).
+Definition wdivN sz (x y : word sz) : word sz := natToWord sz (wordToNat x / wordToNat y).
+Definition wremN sz (x y : word sz) : word sz := natToWord sz (wordToNat x mod wordToNat y).
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v]: Would it work the define these in terms of Zmod unsigned division and modulo operations?

File: Kami/Lib/Word.v (hunk 16 above)
Comment (andres-erbsen) [reply Kami/Lib/Word.v]: Actually, would it be straightforward to update usages if the default `b` was always 0 (so that the match on sz can be omitted altogether)?

File: Kami/Lib/Word.v [hunk 24]
```diff
@@ -12,1446 +27,831 @@ Set Implicit Arguments.
...
-Definition wnot' sz := bitwp xorb (wones sz).
-
-Definition wor := bitwp orb.
-Definition wand := bitwp andb.
-Definition wxor := bitwp xorb.
-
-Notation "l ^| r" := (@wor _ l%word r%word) (at level 50, left associativity).
-Notation "l ^& r" := (@wand _ l%word r%word) (at level 40, left associativity).
-
 (** * Conversion to and from [Z] *)
```
Comment (andres-erbsen) [inline Kami/Lib/Word.v]: Remove stray headers

File: Kami/Lib/Word.v (hunk 23 above)
Comment (JasonGross) [reply Kami/Lib/Word.v]: Yes (227155a): `Div`/`Rem` now evaluate to `Zmod.udiv`/`squot` and `Zmod.umod`/`srem` directly, and `wdivN`/`wremN`/`wdivZ` are gone. The remainders agree with the old definitions everywhere; the quotients differ only at a zero divisor (`-1`, the RISC-V convention, instead of `0`), which no Kami program reaches (the divider spec and implementation assert `d != $0`, and `IsaRv32` has no division). The divider's final-restoring lemma is stated with `Zmod.udiv`/`umod` under its `d <> 0` hypothesis and proved through `unsigned_udiv_nonneg`/`unsigned_umod` instead of the nat round trip.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

Comment (andres-erbsen) [reply Kami/Lib/Word.v]: Does the BlueSpec backend need a particlular value for division by zero to be accurate?

Comment (JasonGross) [reply Kami/Lib/Word.v]: No. The backend prints `Div`/`Rem` as `divide_{unsigned,signed}`/`remainder_{unsigned,signed}` from Kami's own MulDiv.bsv, which are Bluespec's `/` and `%` on UInt/Int with no zero check, and bsc turns those into the plain Verilog operators: with a zero divisor the simulated Verilog yields `x` (checked with bsc 2026.01 + iverilog: `xx` for all four of udiv/urem/sdiv/srem) and Bluesim aborts with SIGFPE, so no Kami-side value is accurate there and none is inaccurate either. Nothing that reaches the backend divides anyway: the extracted rv32i processor's Proc.bsv has no `divide_`/`remainder_` call, and the Divider examples that use `Div`/`Rem` assume a nonzero divisor. So the choice is free to follow the least surprising convention for proofs; the stdlib's `udiv`/`squot` value (`-1`, all ones, RISC-V's DIV result) is the one a hardware reader expects, and the transliteration needs no change either way.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 16 above)
Comment (JasonGross) [reply Kami/Lib/Word.v]: Done (e2507eb): `wmsb` is `Zmod.signed w <? 0` at every width (so `false` for the empty word); the default-answer argument and the `match` on the width are gone, `wmsb_S` is now the definition, `wmsb_eqn_gen` is deleted, and every lemma and use site drops the argument. No use site in Kami or bedrock2 passed anything but `false`.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

File: Kami/Lib/Word.v (hunk 24 above)
Comment (JasonGross) [reply Kami/Lib/Word.v]: Removed (e2507eb): the file has no header without content under it any more (the five empty headers and the no-op scope pairs left by the deletions are gone).

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

**Comment by JasonGross** [comment]
Both ports are up: mit-plv/quartz#2 (stdlib bits, with the backend tests per observable difference) and mit-plv/granite#1 (pins quartz#2's tip; 60 files, no admits, same axiom for `Demo.noninterference`).

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*

**Comment by JasonGross** [comment]
Added 2777a72: seven transport lemmas about `wordToN`/`split1`/`split2`/`combine`/`eq_rect`/`weq` that bedrock2's processor needs (they let bedrock2 delete its processor/KamiWord.v, per the #565 review). The PR head is now a merge commit over the series, as requested for submodule PRs; kami#53 is rebased on it the same way.

---
*Written by Claude Fable 5.1 via [Claude Code](https://claude.com/claude-code) (session https://claude.ai/code/session_01YJbiRBkJtM7x6PvYV6hmEm).*
